US06265349B1
Preparation of 3-(4-chloro-2-fluoro-5-methylsulfonylaminophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone (Compound No. 1-60)
0.9 g (2.8 mmol) of 3-(5-amino-4-chloro-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone and 0.6 g (5.9 mmol) of triethylamine were dissolved in 20 ml of dichloromethane, and 0.7 g (6.1 mmol) of methylsulfonyl chloride was dropwise added thereto under cooling with ice. The mixture was stirred at room temperature for 2 hours and then diluted with an aqueous ammonium chloride solution. The mixture was extracted with ethyl acetate. After washing with water and a saturated sodium chloride aqueous solution, the organic layer was dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure. Then, the obtained crude crystals of the bissulfone compound were dissolved in 25 ml of ethanol, and 10 ml (5.0 mmol) of a 0.5N sodium hydroxide aqueous solution was added at room temperature, followed by stirring for 1 hour. The mixture was poured into water, acidified with citric acid and extracted with ethyl acetate After washing with water, the organic layer was dried over anhydrous magnesium sulfate Ethyl acetate was distilled off under reduced pressure. Then, the obtained crude crystals were washed with n-hexane to obtain 0.80 g (yield: 72%) of the desired product. Melting point: 113-114° C.

reactant | 3-(5-amino-4-chloro-2-fluorophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 2.8 mmol, 0.9 g | NC=1C(=CC(=C(C1)C=1C(N(C(=CC1)C(F)(F)F)C)=O)F)Cl | C13H9ClF4N2O
reactant | triethylamine | 5.9 mmol, 0.6 g | C(C)N(CC)CC | C6H15N
reactant | methylsulfonyl chloride | 6.1 mmol, 0.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydroxide | 0.5N | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-(4-chloro-2-fluoro-5-methylsulfonylaminophenyl)-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 0.80 g, yield: 72% | ClC1=CC(=C(C=C1NS(=O)(=O)C)C=1C(N(C(=CC1)C(F)(F)F)C)=O)F | C14H11ClF4N2O3S
